US07718683B2
Oxalyl chloride (0.19 mL, 2.20 mmol) was added to a solution of isopropoxyacetic acid (200 mg, 1.69 mmol) in dichloromethane (17 mL) and stirred at room temperature for 2 hours. The reaction was concentrated and 3 mL of THF was added. The acid chloride solution was subsequently slowly added to a solution of 4-tert-butyl-N-(4-chloro-2-hydrazinocarbonyl-phenyl)-benzenesulfonamide (645 mg, 1.69 mmol) in 10 mL of THF at 0° C. After the reaction was stirred for 1 h, it was quenched with water and diluted with ethyl acetate. The aqueous phase was extracted with ethyl acetate (3×) and dichloromethane (2×), and the combined organic layers were dried over magnesium sulfate and concentrated in vacuo. The crude reside was purified by flash column chromatography (0-100% ethyl acetate in hexane) to yield 4-tert-butyl-N-{4-chloro-2-[N′-(2-isopropoxy-acetyl)-hydrazinocarbonyl]-phenyl}-benzenesulfonamide as a yellow solid.

reactant | Oxalyl chloride | 2.20 mmol, 0.19 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | isopropoxyacetic acid | 1.69 mmol, 200 mg | C(C)(C)OCC(=O)O | C5H10O3
reactant | 4-tert-butyl-N-(4-chloro-2-hydrazinocarbonyl-phenyl)-benzenesulfonamide | 1.69 mmol, 645 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)NN | C17H20ClN3O3S
solvent | dichloromethane | 17 mL | ClCCl | CH2Cl2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-tert-butyl-N-{4-chloro-2-[N′-(2-isopropoxy-acetyl)-hydrazinocarbonyl]-phenyl}-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)NNC(COC(C)C)=O | C22H28ClN3O5S
